US05312831
N-[(4-butoxyphenyl)acetyl]-D-allo-Threonine (2c-7)
4-Butoxyphenylacetic acid (288 mg, 1.38 mmol) is converted to the acid chloride and added to D-allo-Thr (150 mg, 1.26 mmol) to get 2c-9, following the procedure described in Example 6. The crude product is purified by chromatography (2.5×18 cm column, gradient 4% CH30H and 0.3% HOAc in CH2Cl2): NMRδ0.96 (t, J=7.4, 3H), 1.14 (d, J=5.8, 3H), 1.47 (m, 2H), 1.74 (m, 2H), 3.53 (br s, 2H), 3.91 (t, J≃6.5, 2H), 4.10 (br s, 1H), 4.53 (br s, 1H), 4.90 (br s, >2H), 6.76 (br d, J=6.0, 1H), 6.84 (d, J=8.4, 2 H), 7.13 (d, J=8.4, 2H); MS (HR=EI) m/z 309.1567 (M calcd. for C16H23NO5, 309.1576 ); [α]D26 -26±2 (CHCl3); m.p. 90-94° C.

reactant | 4-Butoxyphenylacetic acid | 1.38 mmol, 288 mg | C(CCC)OC1=CC=C(C=C1)CC(=O)O | C12H16O3
reactant | D-allo-Thr | 1.26 mmol, 150 mg | N[C@H]([C@H](O)C)C(=O)O | C4H9NO3
product | N-[(4-butoxyphenyl)acetyl]-D-allo-Threonine | C(CCC)OC1=CC=C(C=C1)CC(=O)N[C@H]([C@H](O)C)C(=O)O | C16H23NO5
